US07427613B2
Cyclopropyl-[2-(4methoxyphenoxy)ethyl]amine
Synthesized according to typical procedures C and D from (4-methoxyphenoxy)-acetic acid and cyclopropylamine.

reactant | (4-methoxyphenoxy)-acetic acid | COC1=CC=C(OCC(=O)O)C=C1 | C9H10O4
reactant | cyclopropylamine | C1(CC1)N | C3H7N
product | Cyclopropyl-[2-(4methoxyphenoxy)ethyl]amine | C1(CC1)NCCOC1=CC=C(C=C1)OC | C12H17NO2
